US07384934B2
2-(R)-tert-Butoxycarbonylamino-3-(2-methyl-allyloxy)-propionic acid
Wash a 60% dispersion of sodium hydride in mineral oil (4.4 g, 115 mmol) with hexanes. Add DMF (30 mL), and cool in an ice bath. Add dropwise a solution N-(tert-butoxycarbonyl)-L-serine (10.0 g, 49 mmol) in DMF (160 mL). Warm to room temperature and stir until hydrogen evolution ceases after one hour. Cool in an ice bath and add 3-bromo-2-methyl-propene (7.40 g, 55 mmol). Stir for 2 hours. Pour mixture onto 5% aqueous sodium bicarbonate (800 mL). Wash twice with ethyl acetate. Add ethyl acetate (200 mL), and acidify the aqueous layer in its presence to pH=3 with concentrated hydrochloric acid. Wash the organic layer with water, dry (Na2SO4), and concentrate to afford the title compound as a clear oil (12.7 g): 1H NMR (CDCl3) δ 1.45 (s, 9H), 1.70 (s, 3H), 3.65 (m, 1H), 3.85 (m, 1H), 3.86-3.94 (m, 2H), 4.44 (m, 1H), 4.89 (s, 1H), 4.93 (s, 1H), 5.43 (d, 1H).

reactant | sodium hydride | [H-].[Na+]
reactant | N-(tert-butoxycarbonyl)-L-serine | 49 mmol, 10.0 g | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | hydrogen | [H][H] | H2
reactant | 3-bromo-2-methyl-propene | 55 mmol, 7.40 g | BrCC(=C)C | C4H7Br
reactant | sodium bicarbonate | 800 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 160 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(R)-tert-Butoxycarbonylamino-3-(2-methyl-allyloxy)-propionic acid | 12.7 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)COCC(=C)C | C12H21NO5
